US07642367B2
2-(5-Bromo-2-chloro-4-methoxy-phenyl)-2-methyl-propionaldehyde
A solution of 2-(5-bromo-2-chloro-4-methoxy-phenyl)-2-methyl-propionitrile (13 g, 0.045 mol) in dry THF (80 mL) was cooled to −10° C. under argon. DIBALH (1M in THF, 100 mL, 0.10 mol) was added keeping the temperature below 0° C. The mixture was stirred for 30 min/0° C. and then 2 h/25° C. The clear solution was carefully poured into icecold hydrochloric acid (2M, 100 mL). The THF was removed under reduced pressure. The aqueous phase was cooled and the crude product was filtered off and recrystallized from boiling MeOH. Yield: 7.8 g (59%). GCMS: >99%

reactant | 2-(5-bromo-2-chloro-4-methoxy-phenyl)-2-methyl-propionitrile | 0.045 mol, 13 g | BrC=1C(=CC(=C(C1)C(C#N)(C)C)Cl)OC | C11H11BrClNO
reactant | DIBALH | 0.10 mol, 1M, 100 mL | CC(C)C[AlH]CC(C)C
reactant | hydrochloric acid | 2M, 100 mL | Cl | ClH
reactant | THF | 80 mL | C1CCOC1 | C4H8O
product | 2-(5-Bromo-2-chloro-4-methoxy-phenyl)-2-methyl-propionaldehyde | BrC=1C(=CC(=C(C1)C(C=O)(C)C)Cl)OC | C11H12BrClO2
